US07939531B2
Oxalyl chloride (0.13 mL, 1.5 mmol) was added to a mixture of 1H-pyrrole-3-carboxylic acid (0.111 g, 1.00 mmol) and 1 drop of N,N-dimethylformamide in 5 mL of dichloromethane. The mixture was stirred for 15 h, then concentrated, then redissolved in 5 mL of dichloromethane and cooled to 0-5° C. Azetidine (0.21 mL, 2.5 mmol) was added, and the mixture was stirred for 1 h at 0-5° C. then absorbed onto silica gel and concentrated. Column chromatography (2->10% MeOH/CH2Cl2) afforded 0.059 g (39%) of azetidin-1-yl-(1H-pyrrol-3-yl)-methanone as an off-white solid.

reactant | Oxalyl chloride | 1.5 mmol, 0.13 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1H-pyrrole-3-carboxylic acid | 1.00 mmol, 0.111 g | N1C=C(C=C1)C(=O)O | C5H5NO2
reactant | Azetidine | 2.5 mmol, 0.21 mL | N1CCC1 | C3H7N
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | azetidin-1-yl-(1H-pyrrol-3-yl)-methanone | 0.059 g, 39% | N1(CCC1)C(=O)C1=CNC=C1 | C8H10N2O
